US08802659B2
To a solution of 6-(Spiro[5.5]undec-3-yloxy)-naphthalene-2-carboxylic acid methyl ester (0.374 g, 0.00106 mol) in tetrahydrofuran (10 mL, 0.1 mol) was added 1.0 M of lithium tetrahydroaluminate in tetrahydrofuran (3.18 mL, 0.00318 mol) at 0° C. The reaction was then allowed to warm to room temperature while stirring for 2 h, Rochele's salt was then added and stirred the resulting mixture was stirred at room temperature for 1 h. After extraction with ethyl acetate, and solvent removal under vacuum, (6-(spiro[5.5]undecan-3-yloxy)naphthalen-2-yl)methanol was obtained as a white solid (0.28 g, 83%). ESI-MS: 307.5 (M+H)+. 100%). 1H NMR (400 MHz, CDCl3) δ 7.74-7.70 (m, 3H), 7.44 (d, J=10.0 Hz, 1H), 7.16 (m, 2H), 4.81 (s, 2H), 4.40 (m, 1H), 1.94-1.26 (m, 18H).

reactant | 6-(Spiro[5.5]undec-3-yloxy)-naphthalene-2-carboxylic acid methyl ester | 0.00106 mol, 0.374 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)OC1CCC2(CC1)CCCCC2 | C23H28O3
reactant | tetrahydrofuran | 0.1 mol, 10 mL | O1CCCC1 | C4H8O
reactant | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
reactant | tetrahydrofuran | 0.00318 mol, 3.18 mL | O1CCCC1 | C4H8O
product | (6-(spiro[5.5]undecan-3-yloxy)naphthalen-2-yl)methanol | C1CC(CCC12CCCCC2)OC=2C=C1C=CC(=CC1=CC2)CO | C22H28O2
